Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Recurrent swelling in the right arm and the neck. 
 
Major Surgical or Invasive Procedure:
___: Venoplasty of the right subclavian vein

 
History of Present Illness:
Ms. ___ is a ___ year-old female smoker with right upper 
extremity venous thoracic outlet syndrome.  She has undergone 
resection of the clavicular head and multiple venous 
angioplasties for recurrent stenosis.  The patient was seen in 
follow up on ___ and unfortunately reported she developed 
recurrent swelling in the right arm and the neck which was very 
bothersome.  The patient's symptoms are exacerbated with 
activity with the right arm.  Otherwise, her medical
history and physical exam are unchanged.

 
Past Medical History:
7 pack year smoking history, post-partum Cerebral vascular 
accident, fibromyalgia, right thoracic outlet syndrome  - venous 
type. 

PSH: appendectomy

 
Social History:
___
Family History:
n/a
 
Physical Exam:
VS:BP 118/60, HR 88, RR 16. 
Carotids: 2+, no bruits or JVD
 Resp: Lungs clear all fields
 Abd: Soft, non tender
 Ext: Pulses:      Left  Femoral palp,  DP palp, ___ palp
                   Right Femoral palp,  DP palp, ___ palp

Feet warm,  well perfused.  No open areas

Wounds
Right groin puncture site: Dressing clean dry and intact. Soft, 
no hematoma or ecchymosis.

 
Brief Hospital Course:
The patient was brought to the operating room on ___ and 
underwent right subclavian vein venoplasty.  The procedure was 
without complications.  Ms. ___    was closely monitored in 
the PACU and then transferred to the floor in stable condition 
where she remained hemodynamically stable. The patient's diet 
was gradually advanced.  She remained ambulatory without 
assistance. There was no requirement to work with physical 
therapy. She was discharged to home on POD #1 in stable 
condition.  Follow-up has been arranged with Dr. ___ 
___ in 1 month with surveillance right subclavian vein 
via venous ultrasound. The patient was started on Plavix on 
POD#1 and was asked to continue this medication for 30 days. 
 
Medications on Admission:
Flexeril 10 mg tablet
1 Tablet(s) by mouth daily 

meclizine 25 mg tablet
one tablet(s) by mouth three times a day as needed for as needed 
for dizziness 

omeprazole 20 mg capsule,delayed release
1 capsule(s) by mouth daily 
 
Lyrica 225 mg capsule
1 Capsule(s) by mouth twice a day 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Cyclobenzaprine 10 mg PO HS:PRN pain 
3. Meclizine 25 mg PO Q6H:PRN dizziness 
4. Omeprazole 20 mg PO DAILY 
5. Pregabalin 225 mg PO BID 
6. Clopidogrel 75 mg PO DAILY - NEW

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thoracic outlet syndrome - Venous Type,  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a right 
subclavian vein venoplasty.   To do this procedure, a small 
puncture was made into the right common femoral vein in your 
groin.  The puncture site heals on its own: there are no 
stitches to remove.   You tolerated the procedure well and are 
now ready to be discharged from the hospital.   Please follow 
the recommendations below to ensure a speedy and uneventful 
recovery.

Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 

For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.

Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

SMOKING
•If you smoke, it is very important that you STOP.   Research 
shows smoking makes vascular disease worse.  This could increase 
the chance of a blockage in your new graft.  Talk to your 
primary care physician about ways to quit smoking. 

 
Followup Instructions:
___